US04079066
7-(2-Diethylaminoethoxy)-2,2-dimethyl-4-(2-naphthyl)-2H-chromene
Reaction of 2-diethylaminoethylchloride hydrochloride with 2,2-dimethyl-4-(2-naphthyl)-2H-chromen-7ol by an analogous method to that described in Example 7 (c) gave the title compound as a colourless oil in 49% yield.

reactant | 2-diethylaminoethylchloride hydrochloride | Cl.C(C)N(CCCl)CC
reactant | 2,2-dimethyl-4-(2-naphthyl)-2H-chromen-7ol | CC1(OC2=CC(=CC=C2C(=C1)C1=CC2=CC=CC=C2C=C1)O)C | C21H18O2
product | 7-(2-Diethylaminoethoxy)-2,2-dimethyl-4-(2-naphthyl)-2H-chromene | 49% yield | C(C)N(CCOC1=CC=C2C(=CC(OC2=C1)(C)C)C1=CC2=CC=CC=C2C=C1)CC | C27H31NO2
